US08278331B2
A solution of 4-(2-chloropyridin-4-yloxy)-3-methylbenzenamine (595 mg, 2.54 mmol), 1-methyl-4-(4,4,5,5-tetramethyl)-[1,3,2]dioxaborolan-2-yl)-4H-pyrazole (790 mg, 3.80 mmol) and Cs2CO3 (2.53 g, 7.77 mmol) in 10 mL of DMF (10 mL)/water (3 mL) was de-gassed under vacuum and blanketed with nitrogen. Pd(PPh3)4 (295 mg, 0.26 mmol) was added and the reaction mixture was heated to 90° C. overnight. The reaction mixture was diluted with EtOAc (30 mL) and washed with water (2×10 mL) and brine (2×10 mL). The aqueous portion was extracted with EtOAc (2×15 mL) and the combined organics were washed with brine (10 mL), concentrated in vacuo and purified on silica gel to provide 3-methyl-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzenamine as a pale yellow foam (627 mg, 88% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.27 (d, J=6.0 Hz, 1H), 8.18 (s, 1H), 7.90 (d, J=0.7 Hz, 1H), 7.07 (d, J=2.2 Hz, 1H), 6.74 (d, J=8.6 Hz, 1H), 6.49 (d, J=2.5 Hz, 1H), 6.46-6.40 (m, 2H), 5.02 (s, 2H), 3.84 (s, 3H), 1.94 (s, 3H); MS (ESI) m/z: 281.2 (M+H+).

reactant | 4-(2-chloropyridin-4-yloxy)-3-methylbenzenamine | 2.54 mmol, 595 mg | ClC1=NC=CC(=C1)OC1=C(C=C(C=C1)N)C | C12H11ClN2O
reactant | 4H-pyrazole | 3.80 mmol, 790 mg | N=1N=CCC1 | C3H4N2
reactant | Cs2CO3 | 7.77 mmol, 2.53 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 3 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.26 mmol, 295 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-methyl-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzenamine | 627 mg, 88% yield | CC=1C=C(C=CC1OC1=CC(=NC=C1)C=1C=NN(C1)C)N | C16H16N4O
